US20010007873A1
EXAMPLE 31 6-[4-(ALLYLOXY)-2-METHOXY-PHENYL]-PYRIDIN-2-YLAMINE
Under a N2 atmosphere in 75 mL of acetone was combined 3.00 g (13.87 mmol) of 4-(6-amino-pyridin-2-yl)-3-methoxy-phenol and 9.04 g (27.75 mmol) of cesium carbonate followed by 3.39 mL (41.62 mmol) of allyl chloride. The reaction was allowed to heat at 45° C with stirring for 16 hours and concentrated in vacuo . The solid residue was partitioned between ethyl acetate (200 mL) and water (200 mL). The organic layer was washed with brine (1×100 mL), dried over sodium sulfate, filtered and concentrated in vacuo to yield product as a yellow solid which was triturated with hexane anf filtered to afford 3.24 g (91%) of crude product (the title compound) as a pale yellow solid.

reactant | 4-(6-amino-pyridin-2-yl)-3-methoxy-phenol | 13.87 mmol, 3.00 g | NC1=CC=CC(=N1)C1=C(C=C(C=C1)O)OC | C12H12N2O2
reactant | cesium carbonate | 27.75 mmol, 9.04 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | allyl chloride | 41.62 mmol, 3.39 mL | C(C=C)Cl | C3H5Cl
solvent | acetone | 75 mL | CC(=O)C | C3H6O
product | 6-[4-(ALLYLOXY)-2-METHOXY-PHENYL]-PYRIDIN-2-YLAMINE | 3.24 g, 91% | C(C=C)OC1=CC(=C(C=C1)C1=CC=CC(=N1)N)OC | C15H16N2O2
